US05227385
A solution of trifluoroacetic acid (18.8 mmol, 2.14 ml) and 2-acetyl-3-methyl-8-(tert-butoxycarbonyl)-8-azabicyclo[3.2.1]oct-2-en (0.49 g, 1.88 mmol) was stirred at room temperature for about 0.5 hour. The solution was concentrated under reduced pressure. Hexane was added to the resulting residue, the resulting solution was concentrated under reduced pressure, and the process was repeated a second time to remove any residual trifluoroacetic acid. A concentrated solution of sodium carbonate was added to the residue to form a basic solution. The solution was extracted with methylene chloride, dried using sodium sulfate and purified by bulb-to-bulb distillation (80° C. (1.0 mmHg)) to give 2-acetyl-3-methyl-8-azabicyclo[3.2.1]oct-2-ene.

reactant | trifluoroacetic acid | 18.8 mmol, 2.14 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-acetyl-3-methyl-8-(tert-butoxycarbonyl)-8-azabicyclo[3.2.1]oct-2-en | 1.88 mmol, 0.49 g | C(C)(=O)C=1C2CCC(CC1C)N2C(=O)OC(C)(C)C | C15H23NO3
product | 2-acetyl-3-methyl-8-azabicyclo[3.2.1]oct-2-ene | C(C)(=O)C=1C2CCC(CC1C)N2 | C10H15NO
